US08383652B2
A solution of 1.8 g (7.7 mmol) of triethyl 2-phosphonopropionate in 25 mL of tetrahydrofuran is added to a suspension of 310 mg (7.7 mmol) of 60% sodium hydride in oil, precooled to 0° C. After stirring at 0° C. for 15 minutes, a solution of 1.5 g (5.2 mmol) of 4-iodo-3-propoxybenzaldehyde in 10 mL of tetrahydrofuran is added. The reaction medium is stirred at room temperature for 12 hours. Saturated ammonium chloride solution is added and the reaction medium is extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a 7/3 heptane/ethyl acetate mixture. 1.6 g (84%) of ethyl (E)-3-(4-iodo-3-propoxyphenyl)-2-methylacrylate are obtained.

reactant | triethyl 2-phosphonopropionate | 7.7 mmol, 1.8 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | sodium hydride | 7.7 mmol, 310 mg | [H-].[Na+]
reactant | 4-iodo-3-propoxybenzaldehyde | 5.2 mmol, 1.5 g | IC1=C(C=C(C=O)C=C1)OCCC | C10H11IO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | ethyl (E)-3-(4-iodo-3-propoxyphenyl)-2-methylacrylate | 1.6 g, 84% | IC1=C(C=C(C=C1)/C=C(/C(=O)OCC)\C)OCCC | C15H19IO3
